US07585868B2
Synthesis of 3-(benzo[d][1,3]dioxol-6-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ZK129).
1-tert-butyl-3-(benzo[d][1,3]dioxol-6-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (21 mg, 0.082 mmol) was dissolved in a solution of formic acid (1 mL) and conc. HCl (0.2 mL) and heated to reflux for 2 hours. Reaction was concentrated in vacuo and purified by RP-HPLC (MeCN:H2O:0.1% TFA). ESI-MS (M+H)+ m/z calcd 256.1, found 256.3.

reactant | 1-tert-butyl-3-(benzo[d][1,3]dioxol-6-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.082 mmol, 21 mg | C(C)(C)(C)N1N=C(C=2C1=NC=NC2N)C=2C=CC1=C(OCO1)C2 | C16H17N5O2
solvent | formic acid | 1 mL | C(=O)O | CH2O2
solvent | HCl | 0.2 mL | Cl | ClH
product | 3-(benzo[d][1,3]dioxol-6-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | O1COC2=C1C=C(C=C2)C2=NNC1=NC=NC(=C12)N | C12H9N5O2
